US05409943
(c) N-(3-(2,6-Dichlorobenzyloxy)-6-methyl-2-pyridyl)phenyl-acetamidine hydrochloride
A mixture of 2-amino-3-(2,6-dichlorobenzyloxy)-6-methyl-pyridine (5.66 g, 20 mmol) and ethyl phenylacetimidate hydrochloride (4.39 g, 22 mmol) in ethanol (80 ml) was heated under reflux for 2 hours. Evaporation of the solvent gave a residue which was purified by chromatography (silica, chloroform/methanol) and recrystallisation from ethanol/ether to obtain the product (1.34 g), m.p. 217°-218° C.

reactant | 2-amino-3-(2,6-dichlorobenzyloxy)-6-methyl-pyridine | 20 mmol, 5.66 g | NC1=NC(=CC=C1OCC1=C(C=CC=C1Cl)Cl)C | C13H12Cl2N2O
reactant | ethyl phenylacetimidate hydrochloride | 22 mmol, 4.39 g | Cl.C1(=CC=CC=C1)CC(OCC)=N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-(3-(2,6-Dichlorobenzyloxy)-6-methyl-2-pyridyl)phenyl-acetamidine hydrochloride | 1.34 g | Cl.ClC1=C(COC=2C(=NC(=CC2)C)NC(CC2=CC=CC=C2)=N)C(=CC=C1)Cl | InChI=1S/C21H19Cl2N3O.ClH/c1-14-10-11-19(27-13-16-17(22)8-5-9-18(16)23)21(25-14)26-20(24)12-15-6-3-2-4-7-15;/h2-11H,12-13H2,1H3,(H2,24,25,26);1H
